US04782052
Preparation of (-)-(1S,12bS)-1-ethyl-12-methyl-1,2,3,4,6,7,12,12b-octahydroindolo[2,3-a]quinolizin-1-yl-propionic acid benzylamide
3.40 g. (0.01 moles) of (-)-(1S,12bS)-1-ethyl-12-methyl-1,2,3,4,6,7,12,12b-octahydroindolo[2,3-a]quinolizin-1-yl-propionic acid are added to a solution containing 2.04 g. (0.02 moles) of N-methylmorpholine (redistilled from sodium) in 20 ml. of dry tetrahydrofuran while stirring under nitrogen, then the solution is cooled to -5° C. and 1.10 g. (0.01 mole) of ethyl chloroformate are rapidly dropped in while stirring vigorously and keeping the inner temperature at or lower than 0° C. The mixture is stirred at 0° C. for 30 minutes, whereupon a solution containing 1.18 g. (0.011 moles) of benzylamine in 10 ml. of dry tetrahydrofuran is dropwise added at a temperature between -5° C. and 0° C. during 10 minutes. The mixture is stirred at 0° C. for 30 minutes, then during an additional stirring for 4 hours the mixture is allowed to warm to room temperature. The mixture is evaporated on a rotating evaporator and after shaking thoroughly the residue with 50 ml. of dichloromethane and 20 ml. of water, the phases are separated. The dichloromethane layer is washed at first with 20 ml. of 5% sodium carbonate solution, then three times with 20 ml. of water each, dried over anhydrous magnesium sulphate and evaporated. The residue which is the crude product, is purified by column chromatography on silica gel by using toluene containing 10% of diethylamine to give 3.36 g. (78% yield) of the title compound as an oily product.

reactant | (-)-(1S,12bS)-1-ethyl-12-methyl-1,2,3,4,6,7,12,12b-octahydroindolo[2,3-a]quinolizin-1-yl-propionic acid | 0.01 moles | C(C)[C@]1(CCCN2CCC3=C([C@H]12)N(C1=CC=CC=C13)C)C(C(=O)O)C | C21H28N2O2
reactant | N-methylmorpholine | 0.02 moles | CN1CCOCC1 | C5H11NO
reactant | ethyl chloroformate | 0.01 mole | ClC(=O)OCC | C3H5ClO2
reactant | benzylamine | 0.011 moles | C(C1=CC=CC=C1)N | C7H9N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (-)-(1S,12bS)-1-ethyl-12-methyl-1,2,3,4,6,7,12,12b-octahydroindolo[2,3-a]quinolizin-1-yl-propionic acid benzylamide | 78% yield | C(C1=CC=CC=C1)NC(C(C)[C@@]1(CCCN2CCC3=C([C@H]12)N(C1=CC=CC=C13)C)CC)=O | C28H35N3O
